US04051254
3-methyl-4-(ethanesulfonamido)phenyl N-methylcarbamate
Ethanesulfonyl chloride (2.2g., 0.0171 mole) was added dropwise to a stirred solution of 3-methyl-4-aminophenyl N-methylcarbamate (3.0g., 0.0166 mole) in 20 ml. of pyridine. The temperature rose to a maximum of 38° C. and then subsided. Stirring was continued at ambient temperature for one hour, and the reaction mixture poured into excess water to give an insoluble precipitate. Recrystallization from ethanol-water gave the product as a beige powder, m.p. 146.5°-48.5° C.

reactant | Ethanesulfonyl chloride | 0.0171 mole, 2.2g | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | 3-methyl-4-aminophenyl N-methylcarbamate | 0.0166 mole, 3.0g | CNC(OC1=CC(=C(C=C1)N)C)=O | C9H12N2O2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 3-methyl-4-(ethanesulfonamido)phenyl N-methylcarbamate | CNC(OC1=CC(=C(C=C1)NS(=O)(=O)CC)C)=O | C11H16N2O4S
